US06924278B2
Thionyl chloride (5.4 ml) was added dropwise to methanol (60 ml) below 5° C. with ice-salt bath cooling and stirring was continued for 10 minutes at the same temperature. 3,4-Dimethylphenyl-D-alanine hydrochloride (5.0 g) was added to the mixture by small portions over 20 minutes at −15° C. and the whole was stirred at room temperature for 6 hours, and evaporated under reduced pressure. The resulting solid was triturated with isopropyl ether to give colorless crystals of 3,4-dimethylphenyl-D-alanine methyl ester hydrochloride (5.10 g).

reactant | Thionyl chloride | 5.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3,4-Dimethylphenyl-D-alanine hydrochloride | 5.0 g | Cl.CC=1C=C(C=CC1C)N[C@H](C)C(=O)O
reactant | methanol | 60 ml | CO | CH4O
product | 3,4-dimethylphenyl-D-alanine methyl ester hydrochloride | 5.10 g | Cl.COC([C@H](NC1=CC(=C(C=C1)C)C)C)=O | InChI=1S/C12H17NO2.ClH/c1-8-5-6-11(7-9(8)2)13-10(3)12(14)15-4;/h5-7,10,13H,1-4H3;1H/t10-;/m1./s1
